US08859580B2
(2R,6R,11S)-6,11-Dimethyl-3-(2,2,2-trifluoro-acetyl)-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocine-8-carboxylic acid methyl ester
2,2,6,6-Tetramethylpiperidine (5.4 mL), 1,3-bis(diphenylphosphino)propane (1.30 g), and Pd(OAc)2 (0.78 g) are added in turn to a flask charged with trifluoromethanesulfonic acid (2R,6R,11S)-6,11-dimethyl-3-(2,2,2-trifluoro-acetyl)-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocin-8-yl ester (7.0 g), dimethylformamide (30 mL), and methanol (30 mL) in argon atmosphere. The reaction flask is put under CO pressure (7 bar) and shaken at 70° C. for 17 h. After cooling to ambient temperature, water is added and the resulting mixture is extracted with Et2O. The combined organic extracts are washed with water and brine and dried (MgSO4). The solvent is evaporated to give the title compound as an oil that crystallizes while standing.

reactant | 2,2,6,6-Tetramethylpiperidine | 5.4 mL | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | 1,3-bis(diphenylphosphino)propane | 1.30 g | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | trifluoromethanesulfonic acid (2R,6R,11S)-6,11-dimethyl-3-(2,2,2-trifluoro-acetyl)-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocin-8-yl ester | 7.0 g | C[C@@]12C3=C(C[C@@H](N(CC1)C(C(F)(F)F)=O)[C@H]2C)C=CC(=C3)OS(=O)(=O)C(F)(F)F | C17H17F6NO4S
reactant | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
reactant | water | O | H2O
catalyst | Pd(OAc)2 | 0.78 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | methanol | 30 mL | CO | CH4O
product | (2R,6R,11S)-6,11-Dimethyl-3-(2,2,2-trifluoro-acetyl)-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocine-8-carboxylic acid methyl ester | COC(=O)C1=CC2=C(C[C@H]3N(CC[C@@]2([C@@H]3C)C)C(C(F)(F)F)=O)C=C1 | C18H20F3NO3
